US07754737B2
To a stirred solution of 1-cyano-3-((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)thiourea (230 mg, 0.58 mmol) and (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (180 mg, 0.58 mmol) in DMF (5 mL) was added EDC (0.17 g, 0.87 mmol). The mixture was stirred for 16 h at rt, diluted with ether (175 mL) and washed with 5% aq HCl (2×50 mL) and brine (50 mL). The combined aqueous washes were back extracted with ether. The combined ether extracts were concentrated to afford crude product (290 mg). The mixture was purified by prep HPLC to afford (3R)—N′-cyano-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamidine (145 mg, 37%).

reactant | 1-cyano-3-((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)thiourea | 0.58 mmol, 230 mg | C(#N)NC(=S)N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CC1CCCCC1 | C18H34N4O2SSi
reactant | (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 0.58 mmol, 180 mg | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1 | C17H26ClNO2
reactant | EDC | 0.87 mmol, 0.17 g
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | 175 mL | CCOCC | C4H10O
product | (3R)—N′-cyano-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-3-((S)-1-hydroxy-5-methoxy-1-phenylpentyl)piperidine-1-carboxamidine | 145 mg, 37% | C(#N)N=C(N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CC1CCCCC1)N1C[C@@H](CCC1)[C@@](CCCCOC)(C1=CC=CC=C1)O | C35H59N5O4Si
